US04060528
To a stirred and refluxing Grignard-complex, previously prepared starting from 7.3 parts of magnesium, 52.6 parts of methyl iodide in 160 parts of ether, is added dropwise a solution of 19.6 parts of 3'-bromo-2'-methylbenzonitrile in 40 parts of ether. Upon completion, stirring at reflux is continued for 20 hours. The reaction mixture is cooled to 0° C and poured onto 500 parts of ice-water while stirring vigorously. The ethereal phase is separated, dried and evaporated. The residue is boiled in 60 parts of a 6N hydrochloric acid solution for 10 minutes. The separated oil is extracted with ether. The extract is washed with water, dried and evaporated. The residue is distilled, yielding 3'-bromo-2'-methylacetophenone; bp. 125°-128° C at 10 mm. pressure.

reactant | magnesium | [Mg] | Mg
reactant | methyl iodide | CI | CH3I
reactant | 3'-bromo-2'-methylbenzonitrile | CC1=C(C=CC=C1Br)C#N | C8H6BrN
reactant | ether | CCOCC | C4H10O
product | 3'-bromo-2'-methylacetophenone | BrC=1C(=C(C=CC1)C(C)=O)C | C9H9BrO
